US05539122
(2S,3S,5S)-5-(N-(N-((N-Methyl-N-((2-isopropyl-4-oxazolyl)methyl)amino)carbonyl)valinyl)amino)-2-(N-((5-isoxazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane.
Using the procedure of Example 1U but replacing (2S,3S,5S)-5-amino-2-(N-((5-thiazolyl)-methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane with (2S,3S,5S)-5-amino-2-(N-((5-isoxazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane and replacing N-((N-methyl-N-((2-isopropyl-4-thiazolyl)methyl)amino)carbonyl)-L-valine with N-((N-methyl-N-((2-isopropyl-4-oxazolyl)methyl)amino)carbonyl)-L-valine provided, after silica gel chromatography using a gradient of 1-4% methanol in dichloromethane, 225 mg (80%) of the desired compound. 1H NMR (DMSO-d6) δ0.74 (d, J=6.9 Hz, 6H), 1.23 (d, J=6.9 Hz, 6H), 1.35-1.54 (m, 2H), 1.80-1.95 (m, 1H), 2.55-2.73 (m, 4H), 2.83 (s, 3H), 2.94-3.09 (m, 1H), 3.53-3.63 (m, 1H), 3.73-3.86 (m, 1H), 3.92 (t, J=8.4 Hz, 1H), 4.08-4.34 (m, 3H), 4.65 (d, J=6 Hz, 1H), 5.04 (s, 2H), 5.91 (d, J=9 Hz, 1H), 6.29 (d, J=2.4 Hz, 1H), 7.01 (d, J=9 Hz, 1H), 7.06-7.27 (m, 10H), 7.69 (d, J=9 Hz, 1H), 7.77 (s, 1H), 8.52 (d, J=2.4 Hz, 1H). Mass spectrum: (M+H)+ =689; (M+NH4)+ =706. Anal. Calcd for C37H48N6O7 : C, 64.52; H, 7.02; N, 12.20. Found: C, 64.52; H, 7.14; N, 12.06.

reactant | (2S,3S,5S)-5-amino-2-(N-((5-isoxazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane | N[C@H](C[C@@H]([C@H](CC1=CC=CC=C1)NC(=O)OCC1=CC=NO1)O)CC1=CC=CC=C1 | C23H27N3O4
reactant | N-((N-methyl-N-((2-isopropyl-4-oxazolyl)methyl)amino)carbonyl)-L-valine | CN(CC=1N=C(OC1)C(C)C)C(=O)N[C@@H](C(C)C)C(=O)O | C14H23N3O4
reactant | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2S,3S,5S)-5-(N-(N-((N-Methyl-N-((2-isopropyl-4-oxazolyl)methyl)amino)carbonyl)valinyl)amino)-2-(N-((5-isoxazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane | 225 mg, 80% | CN(CC=1N=C(OC1)C(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@H](C[C@@H]([C@H](CC1=CC=CC=C1)NC(=O)OCC1=CC=NO1)O)CC1=CC=CC=C1 | C37H48N6O7
